US04942176
4-(N-Methyl-4-benzoylanilino)butyric acid
1.41 g (0.05 mole) of 4-(4-benzoylanilino)butyric acid are dissolved in 15 ml of DMF, and 0.84 g of NaHCO3 (0.01 mole) and 1.42 g (0.01 mole) of methyl iodide are added, and the mixture is stirred at 80° C. for about 3 h. It is then poured onto ice-water, the mixture is extracted with ethyl acetate, the organic phase is dried with MgSO4, and the solvent is evaporated off in vacuo. The residue is chromatographed on silica gel using n-hexane/ethyl acetate as eluent. The oily product is immediately hydrolyzed with 2 N LiOH. The title compound is obtained and has the melting point 111°-113° C.

reactant | 4-(4-benzoylanilino)butyric acid | 0.05 mole, 1.41 g | C(C1=CC=CC=C1)(=O)C1=CC=C(NCCCC(=O)O)C=C1 | C17H17NO3
reactant | NaHCO3 | 0.01 mole, 0.84 g | C(=O)(O)[O-].[Na+]
reactant | methyl iodide | 0.01 mole, 1.42 g | CI | CH3I
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-(N-Methyl-4-benzoylanilino)butyric acid | CN(C1=CC=C(C=C1)C(C1=CC=CC=C1)=O)CCCC(=O)O | C18H19NO3
